US08216973B2
2-({[5-(Difluoromethoxy)-1-methyl-3-(trifluoromethyl)-1H-pyrazol-4-yl]methyl}sulfanyl)-1,3-oxazole (Ex. 49)
1,3-Oxazole-2(3H)-thione (2.960 g, 29 mmol; prepared as described in WO 2003/006442 A) is initially charged in 50 ml of acetonitrile. With ice-bath cooling, 1,8-diazabicyclo(5.4.0)undec-7-ene (DBU, 4.81 ml, 32 mmol) is added dropwise. The mixture is stirred at 25° C. for 30 minutes. A solution of 4-(bromomethyl)-5-(difluoromethoxy)-1-methyl-3-(trifluoromethyl)-1H-pyrazole (9.045 g, 29 mmol) dissolved in acetonitrile is added dropwise. The mixture is stirred at 25° C. for a further 4 hours and allowed to stand overnight. For work-up, the reaction mixture is added to water and extracted twice with dichloromethane, and the extracts are then washed with water and finally with saturated NaCl solution. The combined organic phases are dried over magnesium sulfate, filtered off and concentrated. The crude product is purified chromatographically (heptan:ethyl acetate, gradient 10:0 to 7:3). This gives 7.6 g of product (74.9% of theory).

reactant | 1,3-Oxazole-2(3H)-thione | O1C(NC=C1)=S | C3H3NOS
reactant | 1,8-diazabicyclo(5.4.0)undec-7-ene | 32 mmol, 4.81 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 4-(bromomethyl)-5-(difluoromethoxy)-1-methyl-3-(trifluoromethyl)-1H-pyrazole | 29 mmol, 9.045 g | BrCC=1C(=NN(C1OC(F)F)C)C(F)(F)F | C7H6BrF5N2O
reactant | water | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-({[5-(Difluoromethoxy)-1-methyl-3-(trifluoromethyl)-1H-pyrazol-4-yl]methyl}sulfanyl)-1,3-oxazole | FC(OC1=C(C(=NN1C)C(F)(F)F)CSC=1OC=CN1)F | C10H8F5N3O2S
